US06268515B1
Lithium hexamethyldisilazide (5.1 ml, 5.1 mmol) was loaded under argon gas in a reaction vessel. (S)-3-Hydroxy-γ-butyrolactone (0.250 g, 2.449 mmol) in THF (5 ml) was added thereto under cooling to −45° C. After stirring for 30 minutes at the same temperature, allyl chloride (0.24 ml, 2,94 mmol) and 1,3-dimethyl-2-imidazolidinone (0.7 ml) in THF (5 ml) was dropped thereto. After stirring for 30 minutes at the same temperature, an aqueous saturated ammonium chloride was added to the reaction mixture and the mixture was extracted with ethyl acetate. The organic layer was washed with water and saturated brine, dried over magnesium sulfate, and condensed in vacuo. The residue was purified by silica gel chromatography to give (2S,3S)-2-allyl-3-hydroxy-γ-butyrolactone (0.261 g, yield 75%).

reactant | Lithium hexamethyldisilazide | 5.1 mmol, 5.1 ml | C[Si]([N-][Si](C)(C)C)(C)C.[Li+]
reactant | (S)-3-Hydroxy-γ-butyrolactone | 2.449 mmol, 0.250 g | O[C@H]1CC(=O)OC1 | C4H6O3
reactant | allyl chloride | 2,94 mmol, 0.24 ml | C(C=C)Cl | C3H5Cl
reactant | 1,3-dimethyl-2-imidazolidinone | 0.7 ml | CN1C(N(CC1)C)=O | C5H10N2O
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | 5 ml | C1CCOC1 | C4H8O
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | (2S,3S)-2-allyl-3-hydroxy-γ-butyrolactone | 0.261 g, yield 75% | C(C=C)[C@@H]1C(=O)OC[C@H]1O | C7H10O3
